US06509328B1
(3-Amino-4′-fluoro-2′-methoxymethoxy-biphenyl-4-yl)-carbamic Acid tert.-Butyl Ester
Prepared from (4′-fluoro-2′-methoxymethoxy-3-nitro-biphenyl-4-yl)-carbamic acid tert.-butyl ester (Example B14) by catalytic hydrogenation with Pd/C according to the general procedure G (method a). Obtained as a light purple foam (577 mg).

reactant | (4′-fluoro-2′-methoxymethoxy-3-nitro-biphenyl-4-yl)-carbamic acid tert.-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=C(C=C1)F)OCOC)[N+](=O)[O-])=O | C19H21FN2O6
catalyst | Pd/C | [Pd] | Pd
product | (3-Amino-4′-fluoro-2′-methoxymethoxy-biphenyl-4-yl)-carbamic Acid tert.-Butyl Ester | 577 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=C(C=C(C=C1)F)OCOC)N)=O | C19H23FN2O4
